US09388176B2
4-Methyl-3-[2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]benzoic Acid
A solution of methyl-4-methyl-3-[2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]benzoate (82 mg, 0.249 mmol) in 1,4-dioxane (5 ml) was treated with 1.0 N NaOH (aq.) (0.748 ml, 0.748 mmol) and the reaction mixture was heated at 100° C. for 15 hours. The solvent was removed in vacuo and the residue was taken up in water. The aqueous mixture was washed with EtOAc and acidified to pH˜2-3 with 1.0 N HCl (aq.). The white, amorphous precipitate which formed was collected, washed with water, and dried to give the title compound (67 mg, 87%).

reactant | methyl-4-methyl-3-[2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]benzoate | 0.249 mmol, 82 mg | COC(C1=CC(=C(C=C1)C)N1CC2=C(N=C(N=C2)SC)CC1)=O | C17H19N3O2S
reactant | NaOH | 0.748 mmol, 1.0 N, 0.748 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-Methyl-3-[2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]benzoic Acid | 67 mg, 87% | CC1=C(C=C(C(=O)O)C=C1)N1CC2=C(N=C(N=C2)SC)CC1 | C16H17N3O2S
